US05061717
4-(4-Phenylbutyryl)benzaldehyde
To THF (30 ml) at -10° C. was added diisopropylamine (8.01 ml, 57.1 mmol) followed by the dropwise addition of n-butyl lithium (2.0M in hexane, 28.6 ml, 57.2 mmol) at a rate such that the internal temperature was kept less than -5° C. A solution of 4-phenylbutyric acid (4.70 g, 28.6 mmol) in THF (20 ml) was then added over 5 minutes followed by hexamethylphosphoramide (4.98 ml, 26.8 mmol). After stirring for 30 minutes at room temperature, the reaction mixture was cooled to -10° C. and a solution of title product of Preparation 20 (5.0 g, 23.8 mmol) in THF (20 ml) was added dropwise. After stirring at room temperature for 1 hour, the reaction was quenched into an equal volume of 3N HCl and stirred for an additional hour. After neutralization to pH 8 with NaHCO3, it was extracted with ether (3×50 ml) and the combined organic layers were washed with water (50 ml), dried (MgSO4) and concentrated to afford 3.95 g of a yellow oil. Chromatography on silica gel with 3:1 hexane:ethyl acetate gave 2.57 g of a white solid containing the desired title product and methyl 4-formylbenzoate.

reactant | diisopropylamine | 57.1 mmol, 8.01 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 57.2 mmol, 2.0M, 28.6 ml | C(CCC)[Li]
reactant | 4-phenylbutyric acid | 28.6 mmol, 4.70 g | C1(=CC=CC=C1)CCCC(=O)O | C10H12O2
reactant | hexamethylphosphoramide | 26.8 mmol, 4.98 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 4-(4-Phenylbutyryl)benzaldehyde | C1(=CC=CC=C1)CCCC(=O)C1=CC=C(C=O)C=C1 | C17H16O2
